US07851473B2
N-1,2-Benzisoxazol-3-yl-4-(3-piperazin-1-yl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide dihydrochloride
To a solution of tert-butyl 4-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperazine-1-carboxylate (87.0 mg, 0.169 mmol) in tetrahydrofuran (5 ml) and methanol (3 ml) was added a solution of 4 N hydrogen chloride in ethyl acetate (8 ml), and the mixture was stirred at room temperature for 4 hours. The solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and diethyl ether to give 50.0 mg (65.6%) of the desired product.

reactant | tert-butyl 4-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperazine-1-carboxylate | 0.169 mmol, 87.0 mg | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)N2CCN(CC2)C(=O)OC(C)(C)C | C23H30N8O4S
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | N-1,2-Benzisoxazol-3-yl-4-(3-piperazin-1-yl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide dihydrochloride | 50.0 mg, 65.6% | Cl.Cl.O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)N2CCNCC2 | InChI=1S/C18H22N8O2S.2ClH/c27-17(20-15-13-3-1-2-4-14(13)28-22-15)25-9-11-26(12-10-25)18-21-16(23-29-18)24-7-5-19-6-8-24;;/h1-4,19H,5-12H2,(H,20,22,27);2*1H
